US07727979B2
2-guanidino-4,5,6,7-tetrahydro-benzothiazole-4-carboxylic acid ethyl ester
Analogously to the preparation of Example C-01, 3-bromo-2-oxo-cyclohexane carboxylic acid ethyl ester is reacted with 2-imino-4-thiobiuret to produce the title compound.

reactant | 3-bromo-2-oxo-cyclohexane carboxylic acid ethyl ester | C(C)OC(=O)C1C(C(CCC1)Br)=O | C9H13BrO3
reactant | 2-imino-4-thiobiuret | C(=NC(=S)N)(N)N | C2H6N4S
product | 2-guanidino-4,5,6,7-tetrahydro-benzothiazole-4-carboxylic acid ethyl ester | C(C)OC(=O)C1CCCC2=C1N=C(S2)NC(=N)N | C11H16N4O2S
